US05747498
(3-Ethynyl-phenyl)-(6-methyl-quinazolin-4-yl)-amine Hydrochloride
6-Methyl-quinazolin-4-one (350 mg, 2.18 mmol) was added to a suspension of polymer-supported triphenylphosphine (from Fluka, 3.63 g of about 3 mmol P/g resin; 10.9 mmol) in a mixture of CCl4 (3.35 g, 21.80 mmol) and 1,2 dichloroethane (10 mL). The mixture was heated to 60° C. for 2 hours and then the polymer was removed by filtration and washed with dichloroethane. The filtrate was collected in a flask containing 3-ethynyl-aniline (0.644 g, 2.18 mmol) and concentrated to 5 mL by evaporation. After 4 hours reflux under N2, followed by cooling to 20° C., the title product was collected by filtration (551 mg; 86%; M.P. 256°-257° C.; LC-MS: 260 (MH+); anal. RP-HPLC RT: 4.41 min).

reactant | 6-Methyl-quinazolin-4-one | 2.18 mmol, 350 mg | CC=1C=C2C(NC=NC2=CC1)=O | C9H8N2O
reactant | triphenylphosphine | about 3 mmol, 3.63 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CCl4 | 21.80 mmol, 3.35 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 3-ethynyl-aniline | 2.18 mmol, 0.644 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | 1,2 dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | (3-Ethynyl-phenyl)-(6-methyl-quinazolin-4-yl)-amine Hydrochloride | Cl.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)C | InChI=1S/C17H13N3.ClH/c1-3-13-5-4-6-14(10-13)20-17-15-9-12(2)7-8-16(15)18-11-19-17;/h1,4-11H,2H3,(H,18,19,20);1H
